US05476933
Preparation of 6,7-dimethyl-2-methoxy-4a,5,8,8a-tetrahydronaphthalene-1,4-dione (77).
To a vigorously stirred solution of NaIO4 (33.5 g, 157 mmol, Baker) in H2O (1500 mL), there was added solid 2-methoxyhydroquinone (11.00 g, 50.0 mmol) in portions. The reaction immediately became dark orange. The reaction was allowed to stir for 1 h at rt and was extracted with CH2Cl2 (3×150 mL). The extract was washed with half saturated brine (1×150 mL), filtered through cotton and the solvent removed in vacuo to yield 2-methoxybenzoquinone as an orange solid (10.5 g) which was of sufficient purity (TLC analysis, 10% EtOAc/90% CHCl3) for further reaction. The crude quinone was combined with toluene (150 mL) and hydroquinone (1.0 g, Mallinkrodt). Neat 2,3-dimethyl-1,3-butadiene (8.3 g, 101 mmol, Aldrich) was added. The reaction was allowed to stir overnight at 65° C. under N2. TLC (10% EtOAc/90% CHCl3) indicated total consumption of the dienophile. The solvent was removed in vacuo to yield a dark solid. This was triturated with MeOH (100 mL) at rt to give a beige solid. Crystallization from MeOH (dissolved in 140 mL, allowed to cool to rt) yielded a fluffy colorless solid (10.2 g, 64%, >95% pure by 1H NMR analysis); mp 133°-134° C. (MeOH); 1H NMR (CDCl3) δ1.62 (s, 6H), 2.12 (m, 2H), 2.42 (m, 2H), 3.09 (m, 1H), 3.20 (m, 1H), 3.78 (s, 3H), 5.88 (s, 1H).

reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
reactant | hydroquinone | 1.0 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | 2,3-dimethyl-1,3-butadiene | 101 mmol, 8.3 g | CC(=C)C(=C)C | C6H10
solvent | MeOH | CO | CH4O
product | 6,7-dimethyl-2-methoxy-4a,5,8,8a-tetrahydronaphthalene-1,4-dione | CC=1CC2C(C=C(C(C2CC1C)=O)OC)=O | C13H16O3
